US06462038B1
(±)-3-Ethyl-1,2,3,6-tetrahydro-1-(2,2,2-trifluoroethyl)-9-(trifluoromethyl)-7H-[1,4]oxazino[3,2-g]quinolin-7-one (Compound 118, Structure 6 of Scheme I, where R1=H, R2=Trifluoromethyl, R6=Et, Rx=CF3)
(±)-7-Amino-2-ethyl-3,4-dihydro-4-(2,2,2-trifluoroethyl)-2H-1,4-benzoxazine (Structure 5 of Scheme I, where R6=Et, Rx=CF3). This compound was prepared by General Method 4 (EXAMPLE 1) from (±)-2-ethyl-3,4-dihydro-7-nitro-4-(2,2,2-trifluoroethyl)-2H-1,4-benzoxazine (170 mg, 0.6 mmol) and purified by flash chromatography (CH2Cl2/MeOH, 20:1) to afford 151 mg (99%) of (±)-7-amino-2-ethyl-3,4-dihydro-4-(2,2,2-trifluoroethyl)-2H-1,4-benzoxazine. Data for (±)-7-amino-2-ethyl-3,4-dihydro-4-(2,2,2-trifluoroethyl)-2H-1,4-benzoxazine: Rf 0.62 (3:2 EtOAc:hexanes); 1H NMR (400 MHz, CDCl3) δ 6.56 (d, 1H, J=8.0), 6.25-6.20 (m, 2H), 3.93 (m, 1H), 3.70-3.64 (m, 3H), 3.43 (br s, 1H), 3.31 (m, 1H), 3.12 (dd, 1H, J=11.9, 8.1), 1.74-1.59 (m, 2H), 1.04 (t, 3H, J=7.5).

reactant | (±)-7-amino-2-ethyl-3,4-dihydro-4-(2,2,2-trifluoroethyl)-2H-1,4-benzoxazine | NC1=CC2=C(N(CC(O2)CC)CC(F)(F)F)C=C1 | C12H15F3N2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | (±)-3-Ethyl-1,2,3,6-tetrahydro-1-(2,2,2-trifluoroethyl)-9-(trifluoromethyl)-7H-[1,4]oxazino[3,2-g]quinolin-7-one | C(C)C1CN(C2=CC=3C(=CC(NC3C=C2O1)=O)C(F)(F)F)CC(F)(F)F | C16H14F6N2O2
